US04518761
11.5 g of p-trifluoromethoxyphenyl isocyanate are dissolved in 10 ml of toluene and are mixed at 25° C. with 10 ml of a 0.02 molar solution of potassium acetate/18-Crown-6 (1:1) in butyl acetate. After the reaction mixture has heated itself to 30° C., 5.0 g of phenyl isocyanate are added over a period of 5 minutes and the mixture is stirred until all the isocyanate has reacted. After separating by column chromatography, the two mixed isocyanurates 1,3-(di-p-trifluoromethoxyphenyl)-5-phenyl-1,3,5-triazine-2,4,6(1H,3H,5H)-trione and 3,5-diphenyl-1-(p-trifluoromethoxyphenyl)-1,3,5-triazine-2,4,6(1H,3H,5H)-trione are obtained in a 73% yield.

reactant | p-trifluoromethoxyphenyl isocyanate | 11.5 g | FC(OC1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO2
reactant | potassium acetate 18-Crown-6 | C(C)(=O)[O-].[K+].C1COCCOCCOCCOCCOCCO1
reactant | phenyl isocyanate | 5.0 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | isocyanate | [N-]=C=O
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | butyl acetate | C(C)(=O)OCCCC | C6H12O2
product | 3,5-diphenyl-1-(p-trifluoromethoxyphenyl)-1,3,5-triazine-2,4,6(1H,3H,5H)-trione | 73% yield | C1(=CC=CC=C1)N1C(N(C(N(C1=O)C1=CC=CC=C1)=O)C1=CC=C(C=C1)OC(F)(F)F)=O | C22H14F3N3O4
